US08039480B2
N—[(S)-1-(1-Cyanocyclopropylcarbamoyl)-3,3-difluoro-4-phenylbutyl]-8-azaspiro[4.5]decane-8-carboxamide
DIPEA (331 μl, 252 mg, 1.95 mmol, 4 eq.), HATU (185 mg, 0.49 mmol, 1 eq.) and 1-aminocyclopropanecarbonitrile hydrochloride (58 mg, 0.49 mmol, 1 eq.) were added successively to a solution of the (S)-2-[(8-azaspiro[4.5]decane-8-carbonyl)amino]-4,4-difluoro-5-phenylpentanoic acid obtained as a crude product (192 mg, 0.49 mmol) in 10 ml of DMF. The reaction mixture was stirred at RT overnight and, the next day, concentrated under reduced pressure. The residue thus obtained was purified by preparative HPLC (gradient: acetonitrile/water and addition of 0.05% TFA). The title compound was obtained in the form of a colorless crystalline material.

reactant | DIPEA | 1.95 mmol, 331 μl, 252 mg, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.49 mmol, 185 mg, 1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.49 mmol, 58 mg, 1 eq. | Cl.NC1(CC1)C#N
reactant | (S)-2-[(8-azaspiro[4.5]decane-8-carbonyl)amino]-4,4-difluoro-5-phenylpentanoic acid | C1CCCC12CCN(CC2)C(=O)N[C@H](C(=O)O)CC(CC2=CC=CC=C2)(F)F | C21H28F2N2O3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N—[(S)-1-(1-Cyanocyclopropylcarbamoyl)-3,3-difluoro-4-phenylbutyl]-8-azaspiro[4.5]decane-8-carboxamide | C(#N)C1(CC1)NC(=O)[C@H](CC(CC1=CC=CC=C1)(F)F)NC(=O)N1CCC2(CCCC2)CC1 | C25H32F2N4O2
